US07750003B2
2,4-Dichloro-6-[(4-fluorophenyl)sulfanylmethyl]pyrimidine
Phosphorus oxychloride (15.2 g, 99.1 mmol) was added to 6-[(4-fluorophenyl)sulfanylmethyl]-1H-pyrimidine-2,4-dione (2.5 g, 9.91 mmol), and the resulting solution was stirred at reflux for 7 hours. The reaction was allowed to cool and the phosphorus oxychloride removed under reduced pressure to give a brown oil. This was dissolved in DCM and ice water (50 mL) added followed by solid sodium bicarbonate (until effervescence stops). The aqueous layer was extracted with DCM (2×50 mL) and the organics dried (MgSO4), filtered and evaporated to afford crude product. The crude product was purified by flash silica chromatography, elution gradient 0 to 40% ethyl acetate in isohexane, to give the desired material as a yellow gum (2.11 g).

reactant | Phosphorus oxychloride | 99.1 mmol, 15.2 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 6-[(4-fluorophenyl)sulfanylmethyl]-1H-pyrimidine-2,4-dione | 9.91 mmol, 2.5 g | FC1=CC=C(C=C1)SCC1=CC(NC(N1)=O)=O | C11H9FN2O2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | DCM | C(Cl)Cl | CH2Cl2
product | 2,4-Dichloro-6-[(4-fluorophenyl)sulfanylmethyl]pyrimidine | 2.11 g | ClC1=NC(=CC(=N1)Cl)CSC1=CC=C(C=C1)F | C11H7Cl2FN2S
